US06830831B2
1,6-Heptadien-5-yl 5-bromopentanoate:
5-Bromopentanoyl chloride (3.0 g, 0.015 mol) was added dropwise to 1,6-heptadien-4-ol (1.5 g, 0.013 mol) and triethylamine (1.4 g, 0.014 mol) in DCM (25 cm3). The mixture was stirred for 2 h and washed with dilute hydrochloric acid (20%, 50 cm3), saturated aqueous potassium carbonate solution (50 cm3), water (50 cm3) then dried (MgSO4) and concentrated to a brown oil. The product was purified by dry flash chromatography [silica gel, DCM] to yield a pale yellow oil (1.7 g, yield 48%). Purity >92% (GC).

reactant | 5-Bromopentanoyl chloride | 0.015 mol, 3.0 g | BrCCCCC(=O)Cl | C5H8BrClO
reactant | 1,6-heptadien-4-ol | 0.013 mol, 1.5 g | C=CCC(CC=C)O | C7H12O
reactant | triethylamine | 0.014 mol, 1.4 g | C(C)N(CC)CC | C6H15N
solvent | DCM | 25 cm3 | C(Cl)Cl | CH2Cl2
product | 1,6-Heptadien-5-yl 5-bromopentanoate | 1.7 g, yield 48% | BrCCCCC(=O)OC(CCC=C)C=C | C12H19BrO2
